US07115596B2
Tert-butyl 6-(2-hydroxyethyl)-1-methyl-2,3-dihydropyrido[2,3-b]pyrazine-4(1H)-carboxylate
To a solution of tert-butyl 6-(2-ethoxy-2-oxoethyl)-1-methyl-2,3-dihydropyrido[2,3-b]pyrazine-4(1H)-carboxylate (26.5 g, 79.01 mmol)) in dry THF (50 mL) at room temperature was added, LiBH4 (2.0 M in THF, 59.26 mL), and the resulting mixture was heated to reflux. After 16 hours the mixture was cooled to 0° C. and carefully quenched with water. The mixture was extracted three times with ethyl acetate. The combined organic extracts were dried over MgSO4, filtered, and concentrated under reduced pressure to get the crude product, which was chromatographed on silica gel (eluent: (1:1) hexane/ethyl acetate) to afford the desired product (17.3 g, 74%) H NMR (CDCl3) δ 1.55 (s, 9H), 2.73 (t, 2H), 2.80 (s, 3H), 3.30 (t, 2H), 3.78(t, 2H), 3.85 (t, 2H), 6.76 (d, 1H), 6.85 (d, 2H), 7.28 (s, 1H).

reactant | tert-butyl 6-(2-ethoxy-2-oxoethyl)-1-methyl-2,3-dihydropyrido[2,3-b]pyrazine-4(1H)-carboxylate | 79.01 mmol, 26.5 g | C(C)OC(CC=1C=CC2=C(N(CCN2C)C(=O)OC(C)(C)C)N1)=O | C17H25N3O4
reactant | LiBH4 | 2.0 M, 59.26 mL | [Li+].[BH4-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Tert-butyl 6-(2-hydroxyethyl)-1-methyl-2,3-dihydropyrido[2,3-b]pyrazine-4(1H)-carboxylate | 17.3 g, 74% | OCCC=1C=CC2=C(N(CCN2C)C(=O)OC(C)(C)C)N1 | C15H23N3O3
